US07902252B2
3.2.a) Synthesis of 1-tert-butyl 2-methyl 4-oxo-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate
4-(Dimethylamino)pyridine (0.062 g, 0.51 mmol) was added to a stirred solution of methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (1.00 g, 5.58 mmol) in CH2Cl2 (DCM) (20 mL) at rt under nitrogen. A solution of di-tert-butyl dicarbonate (1.33 g, 6.09 mmol) in CH2Cl2 (10 mL) was then added and the solution was stirred for 18 h. The reaction was quenched with a saturated solution of NH4Cl before extraction with EtOAc (3×50 mL). The combined extracts were washed with brine and dried over Na2SO4. Purification by column chromatography (0-50% EtOAc/heptane) gave the title compound as a clear, yellow oil (1.38 g, 88%). Rf (1:1 EtOAc/heptane)=0.40; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.62 (s, 9H), 2.90-2.92 (m, 2H), 3.14-3.17 (m, 2H), 3.88 (s, 3H), 6.90 (s, 1H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 5.58 mmol, 1.00 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | di-tert-butyl dicarbonate | 6.09 mmol, 1.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(Dimethylamino)pyridine | 0.51 mmol, 0.062 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 2-methyl 4-oxo-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate | O=C1CCC=2N(C(=CC21)C(=O)OC)C(=O)OC(C)(C)C | C14H17NO5
